US05708008
N,N-diethyl-N'-(3-(1-methylpiperidin-4-yl)-1H-indol-5-yl)urea
Beginning with 13.0 mg (0.056 mMol) 5-amino-3-(1-methyl-piperidin-4-yl)-1H-indole and 8.0 mg (0.062 mMol) diethyl carbamoyl chloride, 16.05 mg (86%) of the title compound were recovered.

reactant | 5-amino-3-(1-methyl-piperidin-4-yl)-1H-indole | 0.056 mMol, 13.0 mg | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | diethyl carbamoyl chloride | 0.062 mMol, 8.0 mg | C(C)N(C(=O)Cl)CC | C5H10ClNO
product | N,N-diethyl-N'-(3-(1-methylpiperidin-4-yl)-1H-indol-5-yl)urea | 16.05 mg, 86% | C(C)N(C(=O)NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C)CC | C19H28N4O
